US04593102
4-Phenylthiocyclohexanone Oxime
The title compound is prepared by reacting 4-bromocyclohexanone with the sodium salt of phenyl sulfide in dimethylformamide followed by reacting with hydroxylamine.

reactant | 4-bromocyclohexanone | BrC1CCC(CC1)=O | C6H9BrO
reactant | sodium | [Na] | Na
reactant | phenyl sulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | hydroxylamine | NO | H3NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Phenylthiocyclohexanone Oxime | C1(=CC=CC=C1)SC1CCC(CC1)=NO | C12H15NOS
